US08003800B2
To a solution of 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid (475 mg, 2.26 mmol) in diethyl ether (15 mL), a solution of methyllithium (3.0 mL, 1.6 M in diethyl ether) is added at rt. The mixture is stirred at rt for 1 h before another portion of methyllithium (0.45 mL) is added. Stirring is continued for 1 h. The reaction is quenched by the addition of 1 N aq. NaH2PO4 solution. The mixture is diluted with diethyl ether, washed with 1 N aq. NaOH, dried over Na2SO4 and evaporated to give 1-[3,5-dimethyl-4-(2-methyl-allyl)thiophen-2-yl]-ethanone (395 mg) as a yellow oil; LC-MS: tR=1.03 min, [M+1]=209.14.

reactant | 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid | 2.26 mmol, 475 mg | CC1=C(SC(=C1CC(=C)C)C)C(=O)O | C11H14O2S
reactant | methyllithium | 1.6 M, 3.0 mL | C[Li]
reactant | methyllithium | 0.45 mL | C[Li]
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 1-[3,5-dimethyl-4-(2-methyl-allyl)thiophen-2-yl]-ethanone | 395 mg | CC1=C(SC(=C1CC(=C)C)C)C(C)=O | C12H16OS
